### PR TITLE
Add missing hypotheses to `mem_relint_dual` and its sibling

### PR DESCRIPTION
**Pull request by mo271**
Both relint duality lemmas were false as stated:

* `mem_relint_iff_forall_dual_zero_le_mem_lineal_of_eq_zero` fails in infinite dimensions (for the lexicographic cone on `⊕ℕ R` the dual cone is trivial, making the right hand side vacuous while the relint is empty); it now assumes `C.FinRank`. Its forward direction holds unconditionally and is proven separately as `mem_lineal_dual_of_mem_relint`.
* `mem_relint_dual` fails already in `R²` for non-dual-closed cones; it now assumes `C.DualClosed p` and `(dual p C).FinSalRank`. The `exists_dual_pos` example inherits the dual closedness assumption.

### CODE REVIEW

**Comment by mo271** [comment]
Before #82 one could give much easier disproofs for these

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean [hunk 1]
```diff
@@ -127,11 +150,14 @@ lemma relint_nonempty_of_finRank (h : C.FinRank) : Nonempty C.relint := by
   exact Submodule.subset_span hx
 
  -- potential short proof of `IsExposedFace.exists_dual_pos`
+/- NOTE: `hdc : C.DualClosed p` is necessary here as well: the cone
+`{(a, b) | b > 0} ∪ {(a, 0) | a ≥ 0}` in `R²` has finite salient rank, but no functional that is
+nonnegative on it vanishes only on its lineality space `⊥`. -/
 variable (p) [Fact p.SeparatingLeft] in
-example {C : PointedCone R M} (hC : C.FinSalRank) :
+example {C : PointedCone R M} (hC : C.FinSalRank) (hdc : C.DualClosed p) :
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean:190]: Should this assume
```suggestion
example {C : PointedCone R M} (hC : (dual p C).FinSalRank) (hdc : C.DualClosed p) :
```
instead?

Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean:190]: in light of hdc they are equivalent. I added an `iff` lemma to that effect

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean [hunk 2]
```diff
@@ -93,13 +93,36 @@ lemma mem_relint_iff_mem_forall_face_eq_top_of_mem :
...
   sorry
 
 variable [Fact p.SeparatingLeft] in
-lemma mem_relint_dual {y : N} :
+/-- Membership in the relint of the dual cone, in terms of the primal cone. Dual closedness of
+`C` cannot be dropped: for `C = {(a, b) | 0 < b} ∪ {(a, 0) | 0 ≤ a}` in `R²` every relint point
+of the dual ray annihilates `(1, 0) ∈ C`, which is not in `C.lineal = ⊥`. The finite rank
+assumption is needed for the same reason as in
+`mem_relint_iff_forall_dual_zero_le_mem_lineal_of_eq_zero`. -/
+lemma mem_relint_dual (hC : C.DualClosed p) (hfin : (dual p C).FinSalRank) {y : N} :
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean]: Then this should be
```suggestion
lemma mem_relint_dual (hC : C.DualClosed p) (hfin : C.FinSalRank) {y : N} :
```
right?

Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean]: yeah, that seems more natural and what the caller likely has available...

**Review by YaelDillies — APPROVED** [review]
LGTM!

**Comment by mo271** [comment]
@martinwintermath

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean [hunk 3]
```diff
@@ -93,13 +93,36 @@ lemma mem_relint_iff_mem_forall_face_eq_top_of_mem :
     x ∈ C.relint ↔ x ∈ C ∧ ∀ F : Face C, x ∈ F → F = ⊤ := by
   sorry
 
+/-- A dual vector that vanishes on a relint point of `C` vanishes on all of `C`. This is the
+(unconditional) forward direction of `mem_relint_iff_forall_dual_zero_le_mem_lineal_of_eq_zero`. -/
+lemma mem_lineal_dual_of_mem_relint (hx : x ∈ C.relint) {y : N}
+    (hy : y ∈ dual p C) (hxy : p x y = 0) : y ∈ (dual p C).lineal := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean:99]: I feel this should be stated without membership. Something like `dual p C \inf Submodule.dual p C.relint \le (dual p C).lineal`?

Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean:99]: yes, but only for nonempty relint, since `Submodule.dual p ∅ = ⊤` would turn the statement into `dual p C ≤ (dual p C).lineal`. With that hypothesis it is even an equality, and the pointwise version `dual p C ⊓ dual p {x} = (dual p C).lineal` for `x ∈ C`.relint holds unconditionally. I added both as `dual_inf_dual_relint` and `dual_inf_dual_singleton_of_mem_relint`.
I'd suggest keeping `mem_lineal_dual_of_mem_relint` it is the form that proofs actually consume (a relint point, a dual vector, and a vanishing hypothesis in hand, conclude membership in the lineality space), and the two membership-free equalities are proved from it, so it stays the more useful one rather than becoming a corollary.

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean [hunk 4]
```diff
@@ -93,13 +93,68 @@ lemma mem_relint_iff_mem_forall_face_eq_top_of_mem :
...
+  obtain ⟨c, hc, hmem⟩ := hrel (-z) (Submodule.neg_mem _ (Submodule.subset_span hz))
+  have h0 := hy hmem
+  simp at h0
+  rw [(p z).map_neg, neg_nonneg]
+  nlinarith [hxy]
+
+/-- For a relint point `x` of `C`, the dual vectors vanishing on `x` are exactly the lineality
+space of the dual cone. This is the membership-free form of `mem_lineal_dual_of_mem_relint`. -/
+lemma dual_inf_dual_singleton_of_mem_relint (hx : x ∈ C.relint) :
+    dual p C ⊓ ofSubmodule (Submodule.dual p {x}) = (dual p C).lineal := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean]: `ofSubmodule` should be stated as `(_ : PointedCone R M)` or so. Maybe the explicit coercion is not even necessary.

Same below.

Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Relint.lean]: done
